US07276606B2
(4-tert-Butyl-phenyl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone was prepared from phenanthridine, 4-tert-butylbenzoyl chloride, and indole according to GP 2. Yield, 34%. 1H-NMR (DMSO-d6): δ=1.21 (s, 9 H), 6.20 (dd, J=2.5 Hz, J=0.8 Hz, 1H), 6.40 (d, br., J=7 Hz, 1H), 6.82 (t, J≈8 Hz, 1H), 6.99-7.08 (m, 2H), 7.11 (ddd, J=J=7.6 Hz, J=1.1 Hz, 1H), 7.14-7.19 (m, 3H), 7.22-7.27 (m, 1H), 7.30 (“d”, J≈8.6 Hz, 2H), 7.43 (ddd, J≈J≈7.5 Hz, J=1.2 Hz, 1H), 7.50-7.57 (m, 2H), 7.85-7.90 (m, 1H), 7.95 (dd, J=7.8 Hz, J=1.3 Hz, 1H), 8.09 (“d”, J≈7.5 Hz, 1H), 10.69 (s, 1H); (+)-ESI-MS: m/z=457 [M+H]+, 340 [M-indole+H]+.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 4-tert-butylbenzoyl chloride | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | (4-tert-Butyl-phenyl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone | C(C)(C)(C)C1=CC=C(C=C1)C(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C1=CNC2=CC=CC=C12 | C32H28N2O
